US05607691
Glycine t-butyl ester hydrochloride (2.51 g, 15 mmol) was treated with 10N aqueous sodium hydroxide (1.6 ml) and extracted with dichloromethane (50 ml). The dichloromethane solution was back washed with saturated aqueous sodium chloride (2×5 ml), dried over sodium sulfate, and concentrated in vacuo to yield the glycine t-butyl ester (1.38 g, 70% yield).

reactant | Glycine t-butyl ester hydrochloride | 15 mmol, 2.51 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | sodium hydroxide | 10N, 1.6 ml | [OH-].[Na+]
product | glycine t-butyl ester | 1.38 g, 70% yield | C(C)(C)(C)OC(CN)=O | C6H13NO2
